US08865623B2
A mixture of 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (135 mg, 0.47 mmol), 3,4-difluoro-1-nitrobenzene (90 mg, 0.56 mmol), and potassium carbonate (130 mg, 0.94 mmol) in N,N-dimethylformamide (3 ml) is heated to 80° C. for 3 hours. The mixture is cooled to room temperature, poured into 2M aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-[2-ethyl-5-(2-fluoro-4-nitrophenoxy)phenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.47 mmol, 135 mg | C(C)C1=C(C=C(C=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
reactant | 3,4-difluoro-1-nitrobenzene | 0.56 mmol, 90 mg | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 0.94 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-[2-ethyl-5-(2-fluoro-4-nitrophenoxy)phenyl]-2,2,6,6-tetramethylpyran-3,5-dione | C(C)C1=C(C=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)C1C(C(OC(C1=O)(C)C)(C)C)=O | C23H24FNO6
